US08012966B2
A stirred solution of 2-[(2-acetylamino-ethylcarbamoyl)-methyl]-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (500 mg, 1.695 mmol) in anhydrous tetrahydrofuran (10 ml) was added dropwise slowly with 1M borane-tetrahydrofuran complex in tetrahydrofuran (6.75 ml, 6.75 mmol) under an argon atmosphere. Upon completion of the addition, the mixture was heated to reflux for 7 hours The mixture was concentrated under reduced pressure. The residue was added with water (10 ml) and adjusted to pH 3 with 2N hydrochloric acid. The resulting mixture was adjusted to pH 14 with 2N aqueous sodium hydroxide solution and extracted with ethyl acetate (10 ml×3). The combined organic extracts were washed with brine (20 ml), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 2-[2-(2-ethylamino-ethylamino)-ethyl]-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (400 mg, 88%) as a brown solid.

reactant | 2-[(2-acetylamino-ethylcarbamoyl)-methyl]-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 1.695 mmol, 500 mg | C(C)OC(=O)C1=C(NC=C1C)CC(NCCNC(C)=O)=O | C14H21N3O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6.75 mmol, 6.75 ml | O1CCCC1 | C4H8O
product | 2-[2-(2-ethylamino-ethylamino)-ethyl]-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 400 mg, 88% | C(C)OC(=O)C1=C(NC=C1C)CCNCCNCC | C14H25N3O2
